US06664271B1
The reaction was run in the same manner as ethyl 1-(3-thiophenecarbonyl)-3-piperidinecarboxylate, starting with 3-(2-thienyl)acrylic acid (2.6 g; 16.9 mmol) and ethyl nipecotate (2.62 ml; 16.9 mmol). The crude product was purified by chromatography on silica, eluting with 40 to 100% ethyl acetate in hexane as a step gradient, giving ethyl 1-(3-(2-thienyl)acrylyl)-3-piperidinecarboxylate (1.74 g) as an off-white solid. MS m/z (positive ion) 316 (M+Na+; 25), 294 (MH+; 100).

reactant | ethyl 1-(3-thiophenecarbonyl)-3-piperidinecarboxylate | S1C=C(C=C1)C(=O)N1CC(CCC1)C(=O)OCC | C13H17NO3S
reactant | 3-(2-thienyl)acrylic acid | 16.9 mmol, 2.6 g | S1C(=CC=C1)C=CC(=O)O | C7H6O2S
reactant | ethyl nipecotate | 16.9 mmol, 2.62 ml | N1CC(C(=O)OCC)CCC1 | C8H15NO2
product | ethyl 1-(3-(2-thienyl)acrylyl)-3-piperidinecarboxylate | 1.74 g | S1C(=CC=C1)C=CC(=O)N1CC(CCC1)C(=O)OCC | C15H19NO3S
